US04096280
(a) 4-(6-Bromohexyl)-3,5-heptanedione.
By replacing the 3,5-heptanedione in the foregoing preparation by a molar equivalent amount of 2,4-pentanedione, 5,7-undecanedione or 2,2,6,6-tetramethyl-3,5-heptanedione, it is contemplated that there can be obtained, respectively, 3-(6-bromohexyl)-2,4-pentanedione, 6-(6-bromohexyl)-5,7-undecanedione, or 4-(6-bromohexyl)-2,2,6,6-tetramethyl-3,5-heptanedione.

reactant | 3,5-heptanedione | CCC(CC(CC)=O)=O | C7H12O2
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
reactant | 5,7-undecanedione | CCCCC(CC(CCCC)=O)=O | C11H20O2
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | 3-(6-bromohexyl)-2,4-pentanedione | BrCCCCCCC(C(C)=O)C(C)=O | C11H19BrO2
reactant | 6-(6-bromohexyl)-5,7-undecanedione | BrCCCCCCC(C(CCCC)=O)C(CCCC)=O | C17H31BrO2
reactant | 4-(6-bromohexyl)-2,2,6,6-tetramethyl-3,5-heptanedione | BrCCCCCCC(C(C(C)(C)C)=O)C(C(C)(C)C)=O | C17H31BrO2
product | 4-(6-Bromohexyl)-3,5-heptanedione | BrCCCCCCC(C(CC)=O)C(CC)=O | C13H23BrO2
